US07074817B2
1-Benzyl-5-[4-(tert-butyl)phenyl]-1H-indole
-Benzyl-5-[4-(tert-butyl)phenyl]-1H-indole was prepared by coupling 1-benzyl-5-bromo-1H-indole (1.44 g, 5.03 mmol), and 4-(tert-butyl)phenylboronic acid (1.08 g, 6.07 mmol), using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (0.204 g, 0.250 mmol), and potassium carbonate (1.39 g, 10.1 mmol) in dioxane (50 mL) and water (5 mL) following the procedure described in Step 1 of Example 11. Purification by flash chromatography (Biotage apparatus) using 0-5% chloroform in hexane as an eluant yielded the title compound as an aqua solid (0.741 g, 43%), mp: 136-137° C. 1HNMR (200 MHz, DMSO-d6): δ 7.8 (s, 1H), 7.2-7.6 (m, 12H), 6.55 (d, 1H, J=2.6 Hz), 5.45 (s, 2H), and 1.3 ppm (s, 9H).

reactant | 1-benzyl-5-bromo-1H-indole | 5.03 mmol, 1.44 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
reactant | 4-(tert-butyl)phenylboronic acid | 6.07 mmol, 1.08 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | dichloromethane | 0.250 mmol, 0.204 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 10.1 mmol, 1.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 1-Benzyl-5-[4-(tert-butyl)phenyl]-1H-indole | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)C(C)(C)C | C25H25N
